Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with the past medical
history of alcohol abuse, seizure disorder, who is being 
admitted
for alcohol withdrawal, seizure, and afib with RVR.

Per patient and the ED report, he was seen in the ED with 
alcohol
intoxication on ___ and was discharged from the ED upon 
sobering
up on ___.  He then left his shelter today to go for a walk and
remembers waking up in the ED (was brought in by ambulance) -
denies any prodromal or preceding symptoms prior to the fall and
LOC.  He re-presented today after being brought in by ambulance
after a witnessed fall and hit his head.  He does not remember
what happened today prior to the fall.  His last drink was
yesterday, he thinks.  Drinks approximately ___ pint of vodka 
per
day.  

He reports a history of seizure d/o for the last few years but
unclear if this is a primary disorder or related to alcohol
withdrawal.  He does not recall his last seizures.  He does
experience hallucinations and withdrawal symptoms if he does not
have a drink for a few days.  

While in the ED, he was witnessed to have a likely seizure at
approximately 11:50 am (moving around, then stopped responded to
commands, and then tried to jump out of bed and was incontinent
of urine.  He underwent a head CT (no acute findings) and
received keppra.  At 1330 he triggered for hypotension and afib
with RVR.  He received 30 mg IV dilt and 30 mg po dilt and went
back into SR.  He received a total of 2 L NS and a total of 30 
mg
IV diazepam, last dose at 1420. 

Currently he is resting comfortably without any symptoms.  He
reports he had hallucinations and tremors earlier in the ED,
which have since resolved.  No headache, LH/dizziness, chest
pain, SOB, tremors, n/v/abd pain, diarrhea.  

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Alcohol abuse
Seizure disorder
? afib (unclear why on BB)

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.
 
Physical Exam:
98.6F, 136 / 90 BP, 69 HR, 18 RR, 96% RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
CV: Heart regular, no murmur, no S3, no S4.
RESP: Lungs clear to auscultation with good air movement
bilaterally. 
GI: Abdomen soft, non-distended, mildly tender to epigastrum
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities
NEURO: Alert, oriented, no tremor, not restless
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW RDWSD Plt 
Ct 
___ 07:46    4.9 3.50* 10.4* 32.4* 93 29.7 32.1 14.6 
49.1* 278 
RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 07:46    ___ 1432 3.8 ___ 
ENZYMES & BILIRUBIN ALT AST LD(LDH) CK(CPK) AlkPhos Amylase 
TotBili DirBili 
___ 07:46    11 19     65   0.4   
OTHER ENZYMES & BILIRUBINS Lipase 
___ 21:59    25 
CARDIAC MARKERS cTropnT 
___ 12:50    <0.011 
  WHOLE BLOOD, MISCELLANEOUS CHEMISTRY Lactate 
___ 00:27    1.3 
___ 14:13    3.0* 

CT head without contrast on ___
FINDINGS:  
  
There is encephalomalacia in the inferior aspect of the right 
frontal lobe, 
likely sequelae of a prior/remote insult.  There is no evidence 
of acute 
infarction,hemorrhage,edema,or new mass effect.  There is 
prominence of the 
ventricles and sulci suggestive of involutional changes.  
Additionally, there 
is slight ex vacuo dilatation of the frontal horn of the right 
lateral 
ventricle near the focus of encephalomalacia.  Scattered 
bilateral foci of 
periventricular deep white matter hypodensity are nonspecific 
however 
compatible with mild sequelae of chronic white matter 
microangiopathy.  
Senescent calcifications are seen in the globus pallidus 
bilaterally. 
  
There is evidence of prior left parietal craniotomy, as well as 
a left frontal 
burr hole.  No evidence of acute fracture.  The visualized 
portion of the 
paranasal sinuses, mastoid air cells, and middle ear cavities 
are clear.  
Carotid siphon calcifications are noted. 

IMPRESSION: 
  
1. No acute intracranial process.  No acute intracranial 
hemorrhage. 
2. Encephalomalacia in the inferior right frontal lobe likely 
represents 
sequelae of prior/remote insult. 
3. Chronic findings include changes from prior left parietal 
craniotomy and 
left frontal burr hole, global involutional change, mild changes 
of chronic 
white matter microangiopathy, and vascular calcifications. 

 
Brief Hospital Course:
___ male with history of alcohol abuse and seizure
disorder (unclear if distinct from prior alcohol withdrawal
seizures), atrial fibrillation who was admitted for seizure on 
___.

The patient had negative blood alcohol levels on presentation. 
He was in active generalized tonic clonic convulsions in the ED 
and required diazepam, and found to have atrial fibrillation 
with RVR requiring IV diltiazem. After ___, the next day he was 
not scoring on CIWA, and was in sinus rhythm. No medications 
were changed at time of discharge. He was not initiated on 
anticoagulation for his atrial fibrillation (CHADS2VASC 1) due 
to frequent falls and head trauma. 
There was incidental finding of prior left frontal craniotomy on 
the CTH.

Patient was discharged with instructions to go to the ___ (as he is currently homeless) and to see his PCP 
there as scheduled.

Greater than 30 minutes was spent in discharge planning and 
coordination.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LevETIRAcetam 1000 mg PO DAILY 
2. Metoprolol Succinate XL 50 mg PO DAILY 
3. Naltrexone 50 mg PO DAILY 
4. Ferrous Sulfate 325 mg PO BID 
5. FoLIC Acid 1 mg PO DAILY 
6. MagOx (magnesium oxide) 400 mg oral DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. PARoxetine 20 mg PO DAILY 
10. Polyethylene Glycol 17 g PO DAILY 
11. Cyanocobalamin 100 mcg PO DAILY 

 
Discharge Medications:
1.  Cyanocobalamin 100 mcg PO DAILY  
2.  Ferrous Sulfate 325 mg PO BID  
3.  FoLIC Acid 1 mg PO DAILY  
4.  LevETIRAcetam 1000 mg PO DAILY  
5.  MagOx (magnesium oxide) 400 mg oral DAILY  
6.  Metoprolol Succinate XL 50 mg PO DAILY  
7.  Multivitamins 1 TAB PO DAILY  
8.  Naltrexone 50 mg PO DAILY  
9.  Omeprazole 20 mg PO DAILY  
10.  PARoxetine 20 mg PO DAILY  
11.  Polyethylene Glycol 17 g PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol withdrawal seizures
Atrial fibrillation with RVR

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Instructions: Dear Mr. ___,

It was a pleasure to be a part of your care team at ___ 
___.

====================================
Why did you come to the hospital? 
====================================

-You had a seizure and fast heart rate.

====================================
What happened at the hospital? 
====================================

-You were found to have seizures due to alcohol withdrawal. A CT 
head scan showed no acute abnormality. You were treated with 
anti-seizure medications and observed for 2 more days with no 
more seizure evidence.
-You also had a fast heart rate due to your alcohol withdrawal, 
in atrial fibrillation rhythm. This became normal sinus rhythm 
after treatment.

==================================================
What needs to happen when you leave the hospital? 

==================================================

-Your primary care doctor requests you go to ___ 
where they would love to see you today immediately after 
discharge. 

-Take your medications every day as directed by your doctors 
-___ attend all of your doctor appointments, this is 
especially important to help with your seizure disorder and 
atrial fibrillation. 
-Avoid activities where a seizure could cause serious injury. 
Examples include climbing, biking, and swimming alone. Do NOT 
drive unless instructed by your PCP.

It was a pleasure taking care of you during your stay! 

Sincerely, 

Your ___ team  

 
Followup Instructions:
___